US06448242B1
Preparation of N,N-bis[[1-[4-(3,4,5-trimethoxyphenyl)benzoyl]-4-piperidinyl]methyl]methylamine hydrochloride
Concentrated hydrochloric acid (0.045 ml; 0.54 mmol) was added to a solution of N,N-bis[[1-[4-(3,4,5-trimethoxyphenyl)benzoyl]-4-piperidinyl]methyl]methylamine (142 mg; 0.18 mmol) in ethanol (5 ml) and the reaction mixture was concentrated under reduced pressure. A process of adding ethanol (10 ml) to the residue and concentrating the mixture under reduced pressure was performed twice to obtain the title compound as a colorless amorphous powder.

reactant | hydrochloric acid | 0.54 mmol, 0.045 ml | Cl | ClH
reactant | N,N-bis[[1-[4-(3,4,5-trimethoxyphenyl)benzoyl]-4-piperidinyl]methyl]methylamine | 0.18 mmol, 142 mg | COC=1C=C(C=C(C1OC)OC)C1=CC=C(C(=O)N2CCC(CC2)CN(CC2CCN(CC2)C(C2=CC=C(C=C2)C2=CC(=C(C(=C2)OC)OC)OC)=O)C)C=C1 | C45H55N3O8
solvent | ethanol | 5 ml | C(C)O | C2H6O
product | N,N-bis[[1-[4-(3,4,5-trimethoxyphenyl)benzoyl]-4-piperidinyl]methyl]methylamine hydrochloride | Cl.COC=1C=C(C=C(C1OC)OC)C1=CC=C(C(=O)N2CCC(CC2)CN(CC2CCN(CC2)C(C2=CC=C(C=C2)C2=CC(=C(C(=C2)OC)OC)OC)=O)C)C=C1 | InChI=1S/C45H55N3O8.ClH/c1-46(28-30-16-20-47(21-17-30)44(49)34-12-8-32(9-13-34)36-24-38(51-2)42(55-6)39(25-36)52-3)29-31-18-22-48(23-19-31)45(50)35-14-10-33(11-15-35)37-26-40(53-4)43(56-7)41(27-37)54-5;/h8-15,24-27,30-31H,16-23,28-29H2,1-7H3;1H
